US08648066B2
To a solution of methyl 5,5-dimethyl-2-oxocyclohexanecarboxylate (6.0 g, 33 mmol) and 2-chloroacetimidamide hydrochloride (4.6 g, 36 mmol) in methanol (30 mL) was added sodium methoxide (4.4 M in MeOH, 9.0 mL, 40 mmol). The reaction mixture was stirred at ambient temperature for three hours and then concentrated. The resulting residue was partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated. Purification by silica gel chromatography provided 2-(chloromethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol (4.2 g, 57% yield) as a white solid. MS (ES) for C11H15ClN2O: 227 (MH+).

reactant | methyl 5,5-dimethyl-2-oxocyclohexanecarboxylate | 33 mmol, 6.0 g | CC1(CCC(C(C1)C(=O)OC)=O)C | C10H16O3
reactant | 2-chloroacetimidamide hydrochloride | 36 mmol, 4.6 g | Cl.ClCC(N)=N
reactant | sodium methoxide | 40 mmol, 4.4 M, 9.0 mL | C[O-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 2-(chloromethyl)-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-ol | 4.2 g, 57% yield | ClCC1=NC=2CCC(CC2C(=N1)O)(C)C | C11H15ClN2O
